US06642389B2
a] 4-[2-(4-Bromomethyl-naphthalen-1-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole
0.494 g of 5-Methyl-4-[2-(naphthalen-1-yloxy)-ethyl]-2-phenyl-oxazole (1.50 mmol) was dissolved under argon atmosphere in 6 ml of CH2Cl2 and cooled down to 0°. 0.455 ml of 62% aq. HBr was added, followed by 58 mg of trioxane (0.644 mmol, 1.29 eq.). After 2 h, additional 0.455 ml of 62% aq. HBr was added and stirring continued for totally 5 h under strict temperature control. The reaction mixture was then diluted with CH2Cl2, washed with sat. NaHCO3-sol., the aqueous layer extracted once more with CH2Cl2, the combined organic phases dried over sodium sulfate and evaporated to dryness. This left 0.70 g of the crude title compound which was used as such for the next step. The product is quite unstable and can not be purified by column chromatography on SiO2; it also decomposes readily on TLC-plates.

reactant | 5-Methyl-4-[2-(naphthalen-1-yloxy)-ethyl]-2-phenyl-oxazole | 1.50 mmol, 0.494 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=CC2=CC=CC=C12 | C22H19NO2
reactant | HBr | 0.455 ml | Br | BrH
reactant | trioxane | 0.644 mmol, 58 mg, 1.29 eq. | O1OOCCC1 | C3H6O3
reactant | HBr | 0.455 ml | Br | BrH
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Bromomethyl-naphthalen-1-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | BrCC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C23H20BrNO2
